US05440051
490 g of 3,5-bis-fluoromethyl-phenol were placed in 1000 ml of acetone together with 50 g of 50% by weight aqueous sodium hydroxide solution, and hexafluoropropene was introduced at 25° C. up to the saturation point. The batch was then diluted with 11 of water and the organic phase was separated off, dried and distilled to give 673 g of 3,5-bis-fluoromethyl-phenyl 1,1,2,3,3,3-hexafluoropropyl ether with a boiling point of 65° to 70° C. at 22 mbar and a refractive index nD2 of 1.3560.

reactant | 3,5-bis-fluoromethyl-phenol | 490 g | FCC=1C=C(C=C(C1)CF)O | C8H8F2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3,5-bis-fluoromethyl-phenyl 1,1,2,3,3,3-hexafluoropropyl ether | 673 g | FC(C(C(F)(F)F)F)(F)OC1=CC(=CC(=C1)CF)CF | C11H8F8O
